US05571821
N-(4-Chloro-3-methyl-5-isoxazolyl)-2-biphenylsulfonamide was prepared in the same manner as described in Example 2 from 5-amino-4-chloro-3-methylisoxazole and 2-biphenylsulfonyl chloride in 74% yield. Purification was achieved by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 132°-134° C.

reactant | 5-amino-4-chloro-3-methylisoxazole | NC1=C(C(=NO1)C)Cl | C4H5ClN2O
reactant | 2-biphenylsulfonyl chloride | C=1(C(=CC=CC1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
product | N-(4-Chloro-3-methyl-5-isoxazolyl)-2-biphenylsulfonamide | 74% yield | ClC=1C(=NOC1NS(=O)(=O)C=1C(=CC=CC1)C1=CC=CC=C1)C | C16H13ClN2O3S
